US05461020
C--Preparation of 1-Methylcyclohexyl Acetate
The procedure given in a product publication, "POLYDMAP(tm) POLYMER, A Guide to Its Successful Use", Reilly Industries, 1990, for testing the activity of polystyrene bound BMAP, was followed. A sample (7.0 gm) of the above silica bound catalyst was mixed with 8.2 gm (0.07 mol) 1-methylcyclohexanol. To this suspension was added 11.6 gm (0.12 mol) triethylamine and 12.8 gm (0.13 mol) acetic anhydride. The mixture was heated at reflux for 5 hours, then filtered to remove the catalyst. The catalyst was washed with 50 ml dichloromethane. The combined filtrate and washes were treated with three 50 ml portions of 9% aqueous HCl, then with three 50 ml portions of saturated aqueous sodium bicarbonate. The organic layer was then dried over anhydrous magnesium sulfate, filtered and the volatile components were removed using a rotary evaporator. The crude product was purified by vacuum distillation through a short Vigreux column. Analysis of the distilled fractions by vapor phase chromatography showed that the desired 1-methylcyclohexyl acetate was obtained in 90 % yield.

reactant | 1-methylcyclohexanol | 0.07 mol, 8.2 gm | CC1(CCCCC1)O | C7H14O
reactant | triethylamine | 0.12 mol, 11.6 gm | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.13 mol, 12.8 gm | C(C)(=O)OC(C)=O | C4H6O3
product | 1-Methylcyclohexyl Acetate | 90 % yield | C(C)(=O)OC1(CCCCC1)C | C9H16O2
